US08859814B2
A solution of 90 mg (0.22 mmol) of 3-[3-tert-butoxycarbonylamino-4-(4-methyl-piperidin-1-yl)-4-oxo-butyl]-benzoic acid methyl ester (prepared in the synthesis of Example 77) in 1 mL of 1:1 MeOH/1,4-dioxane and 0.5 mL of 1 N NaOH is stirred for 3 h. The organic phase is separated and suspended in 2 mL of water. The pH is adjusted to 2 with HCl, and the resulting precipitate is filtered to provide 85 mg (98%) of 3-[3-tert-butoxycarbonylamino-4-(4-methyl-piperidin-1-yl)-4-oxo-butyl]-benzoic acid.

reactant | 3-[3-tert-butoxycarbonylamino-4-(4-methyl-piperidin-1-yl)-4-oxo-butyl]-benzoic acid methyl ester | 0.22 mmol, 90 mg | COC(C1=CC(=CC=C1)CCC(C(=O)N1CCC(CC1)C)NC(=O)OC(C)(C)C)=O | C23H34N2O5
reactant | NaOH | 1 N, 0.5 mL | [OH-].[Na+]
solvent | MeOH 1,4-dioxane | 1 mL | CO.O1CCOCC1
product | 3-[3-tert-butoxycarbonylamino-4-(4-methyl-piperidin-1-yl)-4-oxo-butyl]-benzoic acid | 85 mg, 98% | C(C)(C)(C)OC(=O)NC(CCC=1C=C(C(=O)O)C=CC1)C(=O)N1CCC(CC1)C | C22H32N2O5
